US07176224B2
C. 3-(4-{2-[2-(4′-Fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenyl)-2-methyl-2-phenoxypropionic acid ethyl ester
3-(4-Hydroxyphenyl)-2-methyl-2-phenoxypropionic acid ethyl ester (495 mg, 1.7 mmol) (see Ex. 1, Part C), toluene-4-sulfonic acid 2-[2-(4′-fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethyl ester (2.2 mmol) and Cs2CO3 (700 mg, 2.2 mmol) are combined in anhydrous DMF (25 mL) and stirred for 16 h at 55° C. under an atmosphere of nitrogen. The mixture was then cooled and diluted with ethyl acetate (100 mL), and washed with water then brine. The organic layer was dried with Na2SO4 and concentrated in vacuo to a viscous yellow oil. The residue was purified by flash column chromatography (100 g silica, 60×15 mL fractions, gradient elution 0–20% ethyl acetate in hexanes) to provide the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 8.18–8.17 (m, 1H), 7.96–7.94 (m, 1H), 7.62–7.57 (m, 3H), 7.51–7.47 (m, 1H), 7.23–7.11 (m, 2H), 7.16–7.11 (m, 3H), 6.98–6.94 (m, 1H), 6.84–6.81 (m, 4H), 6.78–6.75 (m, 1H), 4.24 (t, J=6.4 Hz, 2H), 4.20 (q, J=7.2 Hz, 2H), 3.26 (d, J=14.0 Hz, 1H), 3.10 (d, J=14.0 Hz, 1H), 2.99 (t, J=6.4 Hz, 2H), 2.40 (s, 3H), 1.38 (s, 3H), 1.21 (t, J=7.2 Hz, 3H); MS (EI) 580.2 (M+)+.

reactant | 3-(4-Hydroxyphenyl)-2-methyl-2-phenoxypropionic acid ethyl ester | 1.7 mmol, 495 mg | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=CC=CC=C1)C)=O | C18H20O4
reactant | toluene-4-sulfonic acid 2-[2-(4′-fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethyl ester | 2.2 mmol | FC1=CC=C(C=C1)C1=CC(=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C25H22FNO4S
reactant | Cs2CO3 | 2.2 mmol, 700 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-{2-[2-(4′-Fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenyl)-2-methyl-2-phenoxypropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=C(C=C1)F)(OC1=CC=CC=C1)C)=O | C36H34FNO5
